US05521179
2-[3-[4-(2-Dimethylaminoethoxycarbonyl)benzyloxycarbonylamino]-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide.
To a solution of 2-[3-(4-carboxybenzyloxycarbonylamino)-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide (0.281 g) in dry tetrahydrofuran (5 mL) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0,141 g), 1-hydroxybenzotriazole hydrate (0,066 g) and 2-dimethylaminoethanol (0.06 mL). The reaction mixture was stirred overnight before it was diluted with ethyl acetate, washed (twice with saturated sodium bicarbonate solution, then brine), dried and evaporated before purification by chromatography, eluting with dichloromethane:methanol (97:3), to afford the title compound; TLC: Rf =O.18, dichlormethane:methanol (97:3); HPLC: tR =6.51, FR=1, column A, water:acetonitrile (3:2); MS: m/z=645(M+1).

reactant | 2-[3-(4-carboxybenzyloxycarbonylamino)-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 0.281 g | C(=O)(O)C1=CC=C(COC(=O)NC=2C(N(C(=CC2)C2=CC=CC=C2)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O)C=C1 | C28H26F3N3O7
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0,141 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0,066 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-dimethylaminoethanol | 0.06 mL | CN(CCO)C | C4H11NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3-[4-(2-Dimethylaminoethoxycarbonyl)benzyloxycarbonylamino]-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | CN(CCOC(=O)C1=CC=C(COC(=O)NC=2C(N(C(=CC2)C2=CC=CC=C2)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O)C=C1)C | C32H35F3N4O7
